US04863920
9.57 g (25.5 mmol) of 7-chloro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was heated to boiling under reflux for 3 hours with 3.52 g (32 mmol) of 1-ethynylcyclopentanol, 170 mg of bis-(triphenylphosphine)-palladium(II) dichloride and 30 mg of copper(I) iodide in 60 ml of diethylamine. The reaction mixture was evaporated and the residue was chromatographed on silica gel while eluting with ethyl acetate. After crystallization from ethyl acetate there was obtained 7-chloro-4,5-dihydro-3-[(1-hydroxycyclopentyl)ethynyl]-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 207°-208°.

reactant | 7-chloro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 25.5 mmol, 9.57 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1I)C)=O | C12H9ClIN3O
reactant | 1-ethynylcyclopentanol | 32 mmol, 3.52 g | C(#C)C1(CCCC1)O | C7H10O
solvent | diethylamine | 60 ml | C(C)NCC | C4H11N
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 170 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 30 mg | [Cu]I
product | 7-chloro-4,5-dihydro-3-[(1-hydroxycyclopentyl)ethynyl]-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#CC1(CCCC1)O)C)=O | C19H18ClN3O2
